US08563763B2
Two moles of a cyclohexane solution of BuLi (1.218 mmol, 1 equiv.) was added to 4 mL of a tetrahydrofuran solution of isocyanomethane (50 mg, 1.218 mmol, 10 equiv.) at a temperature of −78° C. After ten minutes, 0.5 mL of a THF solution of methylpyridine-2-sulfinate (210 mg, 1.34 mmol, 11 equiv.) was added at once. After thirty minutes, 5 mL of saturated, aqueous NH4Cl was added. A crude product was extracted with CH2Cl2 (2×15 mL), dried (NaSO4), and concentrated. The crude product was purified by radial chromatography (1 mm alumina plate, 30:70 ethylacetate/hexanes) to produce 131 mg (65% yield) of 2-((isocyanomethyl)sulfinyl)pyridine as a white solid having M.P. 91-93° C.; IR (film) 542, 776, 960, 992, 1038, 1053, 1427, 1452, 1578, 2139, 2923, 2997 cm−1; 1H NMR: δ 4.73 (ABq, Δv=83.3 Hz, J=14.3 Hz, 2H), 7.49-7.52 (m, 1H), 8.04-8.12 (m, 2H), 8.67-8.68 (m, 1H); 13C NMR: δ 60.33, 125.65, 125.82, 138.56, 150.02, 160.58, 165.10.

reactant | cyclohexane | Two moles | C1CCCCC1 | C6H12
reactant | BuLi | 1.218 mmol, 1 equiv. | [Li]CCCC
reactant | isocyanomethane | 1.218 mmol, 50 mg, 10 equiv. | [N+](#[C-])C | C2H3N
reactant | methylpyridine-2-sulfinate | 1.34 mmol, 210 mg, 11 equiv. | COS(=O)C1=NC=CC=C1 | C6H7NO2S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 2-((isocyanomethyl)sulfinyl)pyridine | 131 mg, 65% yield | [N+](#[C-])CS(=O)C1=NC=CC=C1 | C7H6N2OS
